US06930112B2
N-Acetyl-β-[2-(4-methylphenyl)ethyl]-β-alanine methyl ester
Methyl 3-acetamido-5-(4-methylphenyl)thiophene-2-carboxylate (1.4905 g, 5.15 mmol) was reductively desulfurized using Raney nickel to yield the title compound as a white gum (1.3434 g, 5.10 mmol, 99.1%); mp: 50-51° C.; TLC: Rf=0.63 (Solvent I), 0.85 (Solvent L); IR (cm−1): 3288 (NH), 2906 (CH aliphatic), 1731 (ester C═O), 1639 (amide C═O), 807 (═CH); 1H nmr (CDCl3): δ 7.07 (s, 4H), 6.08 (br d, 1H, J=8.8 Hz), 4.28 (sextet, 1H, J=5.3 Hz), 3.67 (s, 3H), 2.63 (d, 2H, J=8.2 Hz), 2.55 (m, 2H), 2.30 (s, 3H), 1.96 (s, 3H), 1.84 (quintet, 2H, J=7.9 Hz).

reactant | Methyl 3-acetamido-5-(4-methylphenyl)thiophene-2-carboxylate | 5.15 mmol, 1.4905 g | C(C)(=O)NC1=C(SC(=C1)C1=CC=C(C=C1)C)C(=O)OC | C15H15NO3S
catalyst | Raney nickel | [Ni] | Ni
product | N-Acetyl-β-[2-(4-methylphenyl)ethyl]-β-alanine methyl ester | 5.10 mmol, 1.3434 g, 99.1% | COC(CC(NC(C)=O)CCC1=CC=C(C=C1)C)=O | C15H21NO3
